US08633173B2
N-Methyl-N-[3-({2-[4-(1-methyl-piperidin-4-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-pyridin-2-yl]-methanesulfonamide was prepared from N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide (75.0 mg, 0.204 mmol) and 4-(1-methyl-piperidin-4-yl)-phenylamine (47.0 mg, 0.247 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.061 g, 57%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.41 (dd, J=4.7, 1.5 Hz, 1H), 7.87-7.80 (m, 2H), 7.50 (d, J=8.5 Hz, 2H), 7.29-7.25 (m, 1H), 7.20 (d, J=8.5 Hz, 2H), 6.69-6.62 (m, 2H), 6.30 (d, J=7.6 Hz, 1H), 5.29 (t, 5.8 Hz, 1H), 4.77 (d, J=6.2 Hz, 2H), 3.32 (s, 3H), 3.09 (s, 3H), 3.01-2.94 (m, 2H), 2.50-2.40 (m, 1H), 2.33 (s, 3H), 3.10-2.00 (m, 2H), 1.87-1.73 (m, 4H). MS=521 (MH)+.

reactant | N-{3-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulfonamide | 0.204 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)NCC=2C(=NC=CC2)N(S(=O)(=O)C)C)=N1 | C14H15ClN6O2S
reactant | 4-(1-methyl-piperidin-4-yl)-phenylamine | 0.247 mmol, 47.0 mg | CN1CCC(CC1)C1=CC=C(C=C1)N | C12H18N2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-[3-({2-[4-(1-methyl-piperidin-4-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino}-methyl)-pyridin-2-yl]-methanesulfonamide | CN(S(=O)(=O)C)C1=NC=CC=C1CNC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)C | C26H32N8O2S
